US08357711B2
tert-Butyl 3-[(cyclopropylmethoxy)methyl]pyrrolidine-1-carboxylate
To a solution of tert-butyl 3-(hydroxymethyl)pyrrolidine-1-carboxylate (Preparation 65, 46.6 g, 0.232 mol, 1 eq) in anhydrous dimethylformamide (250 mL) was added in portions with stirring and under an atmosphere of argon a dispersion in oil of sodium hydride (11.2 g, 0.28 mol, 1.2 eq) in oil. The mixture was stirred for 45 min and then (chloromethyl)cyclopropane (26 mL, 0.28 mol, 1.2 eq) in anhydrous THF (30 mL) was added. The mixture was stirred for 12 h and then treated with water (100 mL) and extracted with ether (3×200 mL). Ether fractions were washed with water (2×100 mL), dried over sodium sulfate and evaporated. The residue was subjected to chromatography (chloroform/ethylacetate 10:1) on silica to afford title compound (50 g, 0.195 mol, 84%).

reactant | tert-butyl 3-(hydroxymethyl)pyrrolidine-1-carboxylate | 0.232 mol, 46.6 g, 1 eq | OCC1CN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | sodium hydride | 0.28 mol, 11.2 g, 1.2 eq | [H-].[Na+]
reactant | (chloromethyl)cyclopropane | 0.28 mol, 26 mL, 1.2 eq | ClCC1CC1 | C4H7Cl
reactant | water | 100 mL | O | H2O
solvent | dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | tert-Butyl 3-[(cyclopropylmethoxy)methyl]pyrrolidine-1-carboxylate | 0.195 mol, 50 g, 84% | C1(CC1)COCC1CN(CC1)C(=O)OC(C)(C)C | C14H25NO3
